US04870091
2-(2,3-Dichlorobenzylidene)-3-oxo-4-methoxybutanoic acid methyl ester.
A solution containing 160 ml of anhydrous benzene, 5 g of 2,3-dichlorobenzaldehyde, 4.2 g of 4-methoxy-3-oxo-butanoic acid methyl ester, 16 drops of pyridine and 22 drops of hexanoic acid is heated under reflux for one hour, removing the water formed. The mixture is then washed with a saturated sodium bicarbonate solution and then with a 0.1N hydrochloric acid solution. The organic phase is taken and evaporated to dryness so as to obtain 8.3 g of an oil.

reactant | 2,3-dichlorobenzaldehyde | 5 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | 4-methoxy-3-oxo-butanoic acid methyl ester | 4.2 g | COC(CC(COC)=O)=O | C6H10O4
catalyst | pyridine | 16 drops | N1=CC=CC=C1 | C5H5N
catalyst | hexanoic acid | 22 drops | C(CCCCC)(=O)O | C6H12O2
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
product | 2-(2,3-Dichlorobenzylidene)-3-oxo-4-methoxybutanoic acid methyl ester | 8.3 g, Yield: 96.5% | COC(C(C(COC)=O)=CC1=C(C(=CC=C1)Cl)Cl)=O | C13H12Cl2O4
